US05162559
Preparation of 2-(pentamethyldisilanyl)ethyl isocyanate
50 g of 2-(pentamethyldisilanyl)ethylamine hydrochloride is suspended in 100 ml of dry toluene in a 250 ml two-neck flask fitted with a gas inlet tube and reflux condenser. A powerful stream of gaseous phosgene is then passed through the solution while stirring. At the same time the solution is heated to boiling. The conversion of the hydrochloride to the isocyanate is terminated when a clear toluene solution has been produced. Subsequently, the excess toluene is distilled off in a water-jet vacuum and the residue left behind is fractionated in an oil-pump vacuum.

reactant | 2-(pentamethyldisilanyl)ethylamine hydrochloride | 50 g | Cl.C[Si]([Si](C)(C)C)(CCN)C
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(pentamethyldisilanyl)ethyl isocyanate | C[Si]([Si](C)(C)C)(CCN=C=O)C | C8H19NOSi2
